US07973050B2
Preparation of 6,8-Dibromo-chroman-4(R)-ylamine hydrochloride
To an ice cooled solution of 4(R)-azido-6,8-dibromo-chroman in tetrahydrofuran (0.16M) was added 1.2 equivalents of trimethylphosphine. The mixture was warmed to room temperature and maintained for 16 h. Concentration of the mixture gave the crude amine. This was dissolved in acetonitrile (0.20M) and 2 equivalents of hydrochloric acid added. The mixture was stirred for 16 h and the solids filtered, washed with acetonitrile and dried to afford the title compound as an off-white solid.

reactant | 4(R)-azido-6,8-dibromo-chroman | N(=[N+]=[N-])[C@@H]1CCOC2=C(C=C(C=C12)Br)Br | C9H7Br2N3O
reactant | trimethylphosphine | 1.2 equivalents | CP(C)C | C3H9P
reactant | hydrochloric acid | 2 equivalents | Cl | ClH
solvent | tetrahydrofuran | 0.16M | O1CCCC1 | C4H8O
solvent | acetonitrile | 0.20M | C(C)#N | C2H3N
product | 6,8-Dibromo-chroman-4(R)-ylamine hydrochloride | Cl.BrC=1C=C2[C@@H](CCOC2=C(C1)Br)N | InChI=1S/C9H9Br2NO.ClH/c10-5-3-6-8(12)1-2-13-9(6)7(11)4-5;/h3-4,8H,1-2,12H2;1H/t8-;/m1./s1
